US05858995
A mixture of pentan-3-one O-(2-nitrophenyl)oxime (10.50 g) in 10% hydrogen chloride-methanol (105 ml) was refluxed for 4 hours. After concentration in vacuo, the residue was extracted with ethyl acetate and water. The obtained organic layer was washed with saturated aqueous sodium bicarbonate, brine and dried over, sodium sulfate. After evaporation in vacuo, the residue was purified by column chromatography on silica gel (eluate; ethyl acetate:n-hexane=1:6) to give a solid. The resulting solid was triturated with a mixture of ethanol and water (2:1) and the precipitate was collected to give 2-ethyl-3-methyl-7-nitrobenzo[b]furan (4.44 g).

reactant | pentan-3-one O-(2-nitrophenyl)oxime | 10.50 g | [N+](=O)([O-])C1=C(C=CC=C1)ON=C(CC)CC | C11H14N2O3
solvent | hydrogen chloride methanol | 105 ml | Cl.CO
product | 2-ethyl-3-methyl-7-nitrobenzo[b]furan | 4.44 g | C(C)C1=C(C2=C(O1)C(=CC=C2)[N+](=O)[O-])C | C11H11NO3
